US08633140B2
2,5-dibromo-1,4-dihexyloxybenzene.
A suspension of KOH powder (10.47 g, 186.6 mmol) in dried DMSO (360 mL) was degassed under vigorous stirring for 1 h. 2,5-dibromo-1,4-dihydroxybenzene (5 g, 18.66 mol) and 1-bromohexane (5.8 mL, 41.06 mmol) were added and stirred for 12 h. The solution was concentrated and precipitated in water, filtered, washed with methanol. The product was recrystallized in ethanol, dried in vacuo (4.518 g, 55.5%). 1H NMR(300 MHz, CDCl3): δ 7.08 (s, 2H), 3.95 (t, 4H), 1.8 (m, 4H), 1.49 (m, 4H). 1.37 (m, 8H), 0.9 (t, 6H).

reactant | KOH | 186.6 mmol, 10.47 g | [OH-].[K+]
reactant | 2,5-dibromo-1,4-dihydroxybenzene | 18.66 mol, 5 g | BrC1=C(C=C(C(=C1)O)Br)O | C6H4Br2O2
reactant | 1-bromohexane | 41.06 mmol, 5.8 mL | BrCCCCCC | C6H13Br
solvent | DMSO | 360 mL | CS(=O)C | C2H6OS
product | 2,5-dibromo-1,4-dihexyloxybenzene | BrC1=C(C=C(C(=C1)OCCCCCC)Br)OCCCCCC | C18H28Br2O2
